US06358971B1
2-Trifluoroacetamido-3-phenyl-6-[(E)-1-(2,3-difluorophenyl)-2-methylcarbamoylvinyl]-imidazo[1,2-a]pyridine
The diethyl-(N-methylcarbamoylmethyl)phosphonate (217 mg, 1.04 mmol) in 250 mL of dry THF was placed in a flame dried flask under an argon atmosphere. The solution was cooled to −78° C. before the dropwise addition of potasium hexamethyldisilazide (5.13 mL, 2.56 mmol; 0.5 M in toluene). The mixture was stirred for 2 hours at −78° C. A solution of the 2-trifluoroacetamido-3-phenyl-6-(2,3-difluorobenzoyl)-imidazo[1,2-a]pyridine (300 mg, 0.693 mmol) in 100 mL of dry THF was added dropwise. The reaction mixture was stirred at −78° C. for 2 hours and then allowed to warm to RT. The resulting brown solution was stirred at RT for 48 hours (as it is noted a high amount of sovent was required in order to avoid dealing with heterogenous medium once the reagents were mixed). The THF was removed in vacuo and the mixture was diluted in 400 mL of EtOAc and washed with saturated NH4Cl (2×100 mL) and once with brine. After drying over MgSO4, the solvents were removed in vacuo to give a brown solid. The residue was purified by column chromatography (CH3CN:CH2Cl2, 2:1) to give 57.6 mg of product. (22%). 1H NMR, 13C NMR.

reactant | potasium hexamethyldisilazide | 2.56 mmol, 0.5 M, 5.13 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 2-trifluoroacetamido-3-phenyl-6-(2,3-difluorobenzoyl)-imidazo[1,2-a]pyridine | 0.693 mmol, 300 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=C(C(=CC=C2)F)F)=O)C1C1=CC=CC=C1)(F)F | C22H12F5N3O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Trifluoroacetamido-3-phenyl-6-[(E)-1-(2,3-difluorophenyl)-2-methylcarbamoylvinyl]-imidazo[1,2-a]pyridine | 57.6 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)/C(=C\C(NC)=O)/C2=C(C(=CC=C2)F)F)C1C1=CC=CC=C1)(F)F | C25H17F5N4O2
